US05192789
To a stirred suspension of 7-hydroxy-4-methyl-1,4-dihydrocyclopent[b]indol-3(2H)-one (5.5 g) in acetonitrile (100 ml) was added propargyl amine (3.0 g), the solution was stirred at room temperature under a nitrogen atmosphere while titanium (IV) isopropoxide (15.6 g) was added in a dropwise manner. The mixture was stirred for 16 hours before quenching with ice water. The mixture was filtered, the solids were washed with CH2Cl2, the layers were separated and the organic portion was dried (Na2SO4). After concentration, the crude product was purified via flash chromatography eluting with hexane/acetone (2:1) to give 4-methyl-3-(2-propynyl)imino-1,2,3,4-tetrahydrocyclopent[b]indol-7-ol.

reactant | 7-hydroxy-4-methyl-1,4-dihydrocyclopent[b]indol-3(2H)-one | 5.5 g | OC1=CC=2C3=C(N(C2C=C1)C)C(CC3)=O | C12H11NO2
reactant | propargyl amine | 3.0 g | C(C#C)N | C3H5N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
catalyst | titanium (IV) isopropoxide | 15.6 g | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 4-methyl-3-(2-propynyl)imino-1,2,3,4-tetrahydrocyclopent[b]indol-7-ol | CN1C2=C(C=3C=C(C=CC13)O)CCC2=NCC#C | C15H14N2O
